US05604229
2-Acetamido-1,3-diacetoxy-2-(3-phenyl-2-propenyl)propane (170 mg) was dissolved in 6 ml of methanol and 6 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 3 hours. After the reaction, the solvent was distilled away and the residue was purified by silica gel column chromatography (methanol:chloroform=1:30-1:6) to give 70 mg of 2-amino-2-(3-phenyl-2-propenyl)-1,3-propanediol as pale brown crystals.

reactant | 2-Acetamido-1,3-diacetoxy-2-(3-phenyl-2-propenyl)propane | 170 mg | C(C)(=O)NC(COC(C)=O)(COC(C)=O)CC=CC1=CC=CC=C1 | C18H23NO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | 2-amino-2-(3-phenyl-2-propenyl)-1,3-propanediol | 70 mg | NC(CO)(CO)CC=CC1=CC=CC=C1 | C12H17NO2
